US07842701B2
methyl 4-isopropoxy-5-methoxy-2-(4-methoxybenzyl)aminobenzoate
A mixture of methyl 2-amino-4-isopropoxy-5-methoxybenzoate (12.67 g), 4-methoxybenzaldehyde (7.90 g), N,N-dimethylformamide (150 ml) and acetic acid (3 ml) was stirred for 8 hours. After stirring, the sodium triacetoxyborohydride (13.4 g) was added thereto. The reaction mixture was stirred for 1 night. To the reaction mixture was added 4-methoxybenzaldehyde (1.98 g) and sodium triacetoxyborohydride (3.35 g) and stirred for 1 day. The reaction mixture was concentrated under reduced pressure until the amount was concentrated to a half, adjusted to pH 8˜9 by adding 5% sodium carbonate. Water was added thereto, the precipitated solid was collected by filtration, washed with water and dried to obtain the target compound (18.9 g).

reactant | methyl 2-amino-4-isopropoxy-5-methoxybenzoate | 12.67 g | NC1=C(C(=O)OC)C=C(C(=C1)OC(C)C)OC | C12H17NO4
reactant | 4-methoxybenzaldehyde | 7.90 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | sodium triacetoxyborohydride | 13.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-methoxybenzaldehyde | 1.98 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | sodium triacetoxyborohydride | 3.35 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | methyl 4-isopropoxy-5-methoxy-2-(4-methoxybenzyl)aminobenzoate | 18.9 g | C(C)(C)OC1=CC(=C(C(=O)OC)C=C1OC)NCC1=CC=C(C=C1)OC | C20H25NO5
